US07163951B2
To a solution of 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-pyridine-2-carbonitrile (0.500 g, 1.59 mmol) in ammonium in methanol (40 mL 2.0 M) was added Raney 2800 nickel (slurry in water). The reaction mixture was stirred under H2 atmosphere for 3 hours, filtered through glass filter paper and concentrated under vacuum. The residue was azeotroped three times with toluene to yield crude 1-{3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridin-2-yl}methanamine that gave a mass ion (ES+) of 319.18 for M+H+.

reactant | 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-pyridine-2-carbonitrile | 1.59 mmol, 0.500 g | ClC=1C(=NC=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C)C#N | C14H8ClFN6
solvent | ammonium | [NH4+]
solvent | methanol | 2.0 M, 40 mL | CO | CH4O
catalyst | nickel | [Ni] | Ni
product | 1-{3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridin-2-yl}methanamine | ClC=1C(=NC=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C)CN | C14H12ClFN6
